US06331559B1
Acetyl chloride (0.30 g, 3.8 mmol) in 4 mL of dry methylene chloride was added dropwise under a nitrogen atmosphere over 10 min to a stirred solution of 6,8-bismercaptooctanoic acid (0.80 g, 3.8 mmol) and triethylamine (1.16 g, 11.5 mmol) at 0. The solution was stirred at 0 a further 15 min then at room temperature for 2 hr. The solution was diluted to 75 mL with methylene chloride and extracted with 2×50 mL of 10% aqueous citric acid, then washed with 30 mL of saturated brine. The organic phase was dried (MgSO4), filtered and the solvent evaporated. The oil remaining was dissolved in 8 mL of 2-propanol and 8 mL of water added. The mixture was stirred under nitrogen at 40 for 4.5 hr. The solvent was evaporated in vacuo and the crude product mixture separated by column chromatography on silica gel first using ethyl acetate-hexane-acetic acid (100:100:1, v/v) as the eluting solvent, and then rechromatographed using hexane-ethyl acetate-acetic acid (150:100:1, v/v) as the solvent yielding 51 mg (5%) of pure 8-acetylmercapto-6-mercaptooctanoic acid as a colorless oil.

reactant | Acetyl chloride | 3.8 mmol, 0.30 g | C(C)(=O)Cl | C2H3ClO
reactant | 6,8-bismercaptooctanoic acid | 3.8 mmol, 0.80 g | SC(CCCCC(=O)O)CCS | C8H16O2S2
reactant | triethylamine | 11.5 mmol, 1.16 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 8-acetylmercapto-6-mercaptooctanoic acid | 51 mg, 5% | C(C)(=O)SCCC(CCCCC(=O)O)S | C10H18O3S2
